US05278316
Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[2-[[2-(1H-benzimidazol-2-yl)ethyl]amino]-1-(1H-indol-3-ylmethyl)-1methyl-2-oxoethyl]carbamate
Following the procedure of Example 70, the title compound was prepared from 0.50 g (1.26 mmol) of 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan and 0.33 g (1.41 mmol) of 1H-benzimidazole-2-ethanamine dihydrochloride with 0.5 mL of added triethylamine. The purified product after chromatography was obtained as a white foam, 0.38 g (56%); 1H NMR (CDCl3) δ 1.46-1.91 (17H, m), 3.10-3.16 (2H, m), 3.27 (1H, d, J 15 Hz), 3.43 (1H, d, J 15 Hz), 3.58 (2H, m), 4.80 (1H, br s), 5.23 (1H, s), 6.67 (1H, m), 6.89-7.72 (10H, m), 8.28 (1H, br s).

reactant | 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan | 1.26 mmol, 0.50 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | 1H-benzimidazole-2-ethanamine dihydrochloride | 1.41 mmol, 0.33 g | Cl.Cl.N1C(=NC2=C1C=CC=C2)CCN
solvent | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
product | Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[2-[[2-(1H-benzimidazol-2-yl)ethyl]amino]-1-(1H-indol-3-ylmethyl)-1methyl-2-oxoethyl]carbamate | N1C(=NC2=C1C=CC=C2)CCNC(C(C)(CC2=CNC1=CC=CC=C21)NC(OC2C1CC3CC(CC2C3)C1)=O)=O | C32H37N5O3
